US07968746B2
Oxidation as described in protocol B, using 78 mg (0.268 mmol) of N-ethyl-6-hydroxy-N,2,5,7,8-pentamethylchroman-2-carboxamide and 323 mg CAN (0.590 mmol) yielded 76 mg of N-ethyl-2-hydroxy-N,2-dimethyl-4-(2,4,5-trimethyl-3,6-dioxocyclohexa-1,4-dienyl)butanamide as a yellow oil.

reactant | N-ethyl-6-hydroxy-N,2,5,7,8-pentamethylchroman-2-carboxamide | 0.268 mmol, 78 mg | C(C)N(C(=O)C1(OC2=C(C(=C(C(=C2CC1)C)O)C)C)C)C | C17H25NO3
reactant | CAN | 0.590 mmol, 323 mg | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
product | N-ethyl-2-hydroxy-N,2-dimethyl-4-(2,4,5-trimethyl-3,6-dioxocyclohexa-1,4-dienyl)butanamide | 76 mg | C(C)N(C(C(CCC1=C(C(C(=C(C1=O)C)C)=O)C)(C)O)=O)C | C17H25NO4
